US04254133
2-(2',3'-Dimethylphenylaminomethyl)-2-imidazoline hydrochloride
31 g of 2-chloromethyl-2-imidazoline hydrochloride and 48.4 g of 2,3-dimethylaniline are refluxed for 5 hours in 65 ml of absolute ethanol. After cooling, the crystallised substance is collected by suction and recrystallised from water, affording 36 g (77% yield) of the final product with a melting point of 242° C.

reactant | 2-chloromethyl-2-imidazoline hydrochloride | 31 g | Cl.ClCC=1NCCN1
reactant | 2,3-dimethylaniline | 48.4 g | CC1=C(N)C=CC=C1C | C8H11N
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | 2-(2',3'-Dimethylphenylaminomethyl)-2-imidazoline hydrochloride | 36 g, 77% yield | Cl.CC1=C(C=CC=C1C)NCC=1NCCN1 | InChI=1S/C12H17N3.ClH/c1-9-4-3-5-11(10(9)2)15-8-12-13-6-7-14-12;/h3-5,15H,6-8H2,1-2H3,(H,13,14);1H
